US07674804B2
Step 1: 4-(2-Chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2,4-dichloro-pyrimidine (4.0 g, 26.85 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (6.45 g, 32.22 mmol, 1.2 equiv) in anhydrous DMF (100 mL) was stirred at rt for 18 h. The organic phase was concentrated under reduced pressure and the crude reaction mixture purified with silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 3.2 g (38%) of the title compound. 1H NMR (400 MHz, CDCl3): δ1.35-1.45 (m, 2H), 1.47 (s, 9H), 1.99-2.03 (m, 2H), 2.91-2.97 (m, 2H), 3.81-3.90 (m, 1H), 4.04-4.07 (br d, 2H), 5.33 (d, J=8.0 Hz, 1H), 6.25 (d, J=4.0 Hz, 1H), 7.98 (d, J=4.0 Hz, 1H). 13C NMR (75 MHz, DMSO): δ 28.05, 30.94, 42.04, 46.69, 78.64, 105.13, 153.86, 155.57, 159.81, 162.72. MS (ISP): 313.1 [M+H]+.

reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 32.22 mmol, 6.45 g, 1.2 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(2-Chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC=C1)Cl | C14H21ClN4O2
